US07608563B2
37.4 mg (0.393 mmol) of 2,5-dimethyl-1H-pyrrole was mixed with toluene (1 mL), 40.0 L (0.407 mmol) of pyridine, then 0.34 mL (0.367 mmol) of 1.08 mol/L phosgene-toluene solution were added to the mixture in an ice bath with stirring, and the resulting mixture was stirred for 1 hour. To the mixture were added 40.0 L (0.407 mmol) of pyridine, then 100 mg (0.361 mmol) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol, and the resulting mixture was stirred for 3 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layers were combined, washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the obtained residue was purified by preparative thin-layer chromatography (available from MERCK CO., 1.05744, 2 plates were used, developed by hexane:ethyl acetate=2:1) to obtain 24.0 mg (0.0603 mmol, Yield: 16.7%) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinyl 2,5-dimethyl-1H-pyrrole-1-carboxylate (Compound No. 3630).

reactant | 2,5-dimethyl-1H-pyrrole | 0.393 mmol, 37.4 mg | CC=1NC(=CC1)C | C6H9N
reactant | pyridine | 0.407 mmol, 40.0 L | N1=CC=CC=C1 | C5H5N
reactant | phosgene toluene | 0.367 mmol, 1.08 mol/L, 0.34 mL | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
reactant | pyridine | 0.407 mmol, 40.0 L | N1=CC=CC=C1 | C5H5N
reactant | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol | 0.361 mmol, 100 mg | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1C)C1CC1)O | C14H13ClN2O2
solvent | water | O | H2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinyl 2,5-dimethyl-1H-pyrrole-1-carboxylate | 0.0603 mmol, 24.0 mg, Yield: 16.7% | CC=1N(C(=CC1)C)C(=O)OC1=C(N=NC(=C1)Cl)OC1=C(C=CC=C1C)C1CC1 | C21H20ClN3O3
